US06096743
By using 448 mg of N-(4-benzyloxy-5-fluoro-2-nitrophenyl)glycine ethyl ester, 350 mg of imidazole and 2 ml of DMF, 331 mg (65%) of N-[4-benzyloxy-5-(1H-imidazol-1-yl)-2-nitrophenyl]glycine ethyl ester was obtained.

reactant | N-(4-benzyloxy-5-fluoro-2-nitrophenyl)glycine ethyl ester | 448 mg | C(C)OC(CNC1=C(C=C(C(=C1)F)OCC1=CC=CC=C1)[N+](=O)[O-])=O | C17H17FN2O5
reactant | imidazole | 350 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-[4-benzyloxy-5-(1H-imidazol-1-yl)-2-nitrophenyl]glycine ethyl ester | 331 mg, 65% | C(C)OC(CNC1=C(C=C(C(=C1)N1C=NC=C1)OCC1=CC=CC=C1)[N+](=O)[O-])=O | C20H20N4O5
